US07687645B2
5-Ethoxycarbonylphtalide
Oleum (20-25% SO3, 800 g), dimethyl terephthalate (234 g) and paraformaldehyde (48 g) are heated with stirring for 5 hours at 125° C. The reaction mixture is cooled to 70° C. and poured into ethanol (1,6 L) having room temperature. This mixture is heated to reflux for 1½ hour before ice (800 g) is added. The suspension is stirred overnight, filtered off and washed with ethanol (150 ml). The crude product is suspended in water (800 ml) and pH is adjusted to 4 with NaOH (27%). The precipitate is filtered off and washed with water and dried.

reactant | Oleum | 800 g | OS(=O)(=O)O.O=S(=O)=O
reactant | dimethyl terephthalate | 234 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | paraformaldehyde | 48 g | C=O | CH2O
solvent | ethanol | 1,6 L | C(C)O | C2H6O
product | 5-Ethoxycarbonylphtalide | C(C)OC(=O)C=1C=C2COC(=O)C2=CC1 | C11H10O4
